US08217032B2
1-(2-{4-[2-(2,4-Difluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine
Dissolve trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester (1.00 g, 1.91 mmol) in 20 mL of degassed acetonitrile and add 2,4-difluorophenyl boronic acid (0.60 g, 3.82 mmol), trans[dichlorobis(triphenylphosphine)]palladium II (0.27 g, 0.38 mmol) and sonicate briefly. Next add cesium fluoride (2.61 g, 17.19 mmol) and heat to 75° C. for one hour. Add Celite and filter. Concentrate the solvent under vacuum, dissolve in methanol and purify on an SCX cartridge, eluting with 2N ammonia/methanol to isolate the title compound.

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-naphthalen-2-yl ester | 1.91 mmol, 1.00 g | COC=1C=C2C=CC(=C(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C26H28F3NO5S
reactant | 2,4-difluorophenyl boronic acid | 3.82 mmol, 0.60 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | cesium fluoride | 17.19 mmol, 2.61 g | [F-].[Cs+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.38 mmol, 0.27 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-{4-[2-(2,4-Difluoro-phenyl)-6-methoxy-naphthalen-1-ylmethyl]-phenoxy}-ethyl)-piperidine | FC1=C(C=CC(=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)CC1=CC=C(OCCN2CCCCC2)C=C1 | C31H31F2NO2
